US07259157B2
C-(1,4-Dibenzyl-piperazin-2-yl)-methylamine
To a solution of 2azidomethyl-1,4-dibenzyl-piperazine (9.0 g, 0.028 mol) in TBFE (90 mL) and water (5 mL) was added triphenylphosphine (22.3 g, 0.085 mol) and the mixture stirred for 18 h. The reaction was concentrated to an oil, dissolved in 1N hydrochloric acid (100 mL) and washed with ethyl acetate (2×100 mL). The acidic aqueous layer was cooled to 0° C. and the pH adjusted to 8.5 with 3N sodium hydroxide. The mixture was extracted with ethyl acetate (2×100 mL) and extracts dried over sodium sulfate and concentrated to an oil.

reactant | 2azidomethyl-1,4-dibenzyl-piperazine | 0.028 mol, 9.0 g | N(=[N+]=[N-])CC1N(CCN(C1)CC1=CC=CC=C1)CC1=CC=CC=C1 | C19H23N5
reactant | triphenylphosphine | 0.085 mol, 22.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | water | 5 mL | O | H2O
product | C-(1,4-Dibenzyl-piperazin-2-yl)-methylamine | C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)CN | C19H25N3
